US07189851B2
A. 4-[(1Z)-3-[(4S)-3-(tert-butoxycarbonyl)-1,3-oxazolidin-4-yl]-2-(ethoxycarbonyl)-3-oxo-1-propenyl]benzoic acid
To (4S)-3-(tert-butoxycarbonyl)-1,3-oxazolidine-4-carboxylic acid (11.15 g, 0.051 mol), Meldrum's acid (7.33 g, 0.051 mol), dimethylaminopyridine (12.44 g, 0.102 mol) and DCM (200 ml) was added 1,3-dicyclohexylcarbodiimide (10.52 g, 0.051 mol). After 24 h the reaction was filtered, extracted twice with 1N HCl (200 ml) once with water, dried (Na2SO4), filtered, concentrated, then warmed to reflux in 100% ethanol for 2 h. The reaction was concentrated to a pale yellow oil (14.3 g). A portion of this material (5.88 g, 0.02 mol) was refluxed 2 h using Dean Stark trap with 4-carboxybenzaldehyde (3.0 g, 0.02 mol), piperidine (110 mg, 0.0012 mol) and toluene (100 ml). The reaction was filtered, concentrated to give A as a yellow gum (7.1 g, 85%). LCMS m/z 420 (MH+).

reactant | (4S)-3-(tert-butoxycarbonyl)-1,3-oxazolidine-4-carboxylic acid | 0.051 mol, 11.15 g | C(C)(C)(C)OC(=O)N1COC[C@H]1C(=O)O | C9H15NO5
reactant | Meldrum's acid | 0.051 mol, 7.33 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | dimethylaminopyridine | 0.102 mol, 12.44 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1,3-dicyclohexylcarbodiimide | 0.051 mol, 10.52 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-carboxybenzaldehyde | 0.02 mol, 3.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
catalyst | piperidine | 0.0012 mol, 110 mg | N1CCCCC1 | C5H11N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-[(1Z)-3-[(4S)-3-(tert-butoxycarbonyl)-1,3-oxazolidin-4-yl]-2-(ethoxycarbonyl)-3-oxo-1-propenyl]benzoic acid | 7.1 g, 85% | C(C)(C)(C)OC(=O)N1COC[C@H]1C(/C(=C/C1=CC=C(C(=O)O)C=C1)/C(=O)OCC)=O | C21H25NO8
